US08609680B2
Preparation of (2-Acetylamino-4-methoxy-phenyl)-acetic acid (SM-1ai)
To a solution of (2-acetylamino-4-methoxy-phenyl)-acetic acid methyl ester (49 mg, 0.21 mmol) in 1.5 mL of methanol was added aqueous 1N NaOH (1.5 mL, 1.5 mmol). The mixture was stirred for 3 h at room temperature. and the pH was adjusted to ˜4 by the addition of Amberlyst 15 ion-exchange resin. After filtration, the filtrate was concentrated to give 46 mg (100%) of 2-acetylamino-4-methoxy-phenyl)-acetic acid which was used without further purification.

reactant | (2-acetylamino-4-methoxy-phenyl)-acetic acid methyl ester | 0.21 mmol, 49 mg | COC(CC1=C(C=C(C=C1)OC)NC(C)=O)=O | C12H15NO4
reactant | NaOH | 1.5 mmol, 1N, 1.5 mL | [OH-].[Na+]
solvent | methanol | 1.5 mL | CO | CH4O
product | (2-Acetylamino-4-methoxy-phenyl)-acetic acid | C(C)(=O)NC1=C(C=CC(=C1)OC)CC(=O)O | C11H13NO4
